US06541638B2
A solution of 124 mg (0.2 mmol) (2S,4R)-{[4-Mercapto-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carbonyl]-phenethyl-amino}-acetic acid in 3.2 ml pyridine were treated at 0° C. with 0.04 ml (0.4 mmol) acetyl chloride and stirred for 10 min at RT. The reaction was poured on ice water and extracted wit 1N HCl/EtOAc (3×). The organic phases were washed with aqueous 1 N HCl and 10% NaCl, dried over Na2SO4 and evaporated. Precipitation from CH2Cl2/Pentane (4° C.) gave 30 mg (28%) (2S,4R)-{[4-Acetylsulfanyl-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carbonyl]-phenethyl-amino}-acetic acid, mp: 190-193° C.; MS: 539 (M-H)−.

reactant | (2S,4R)-{[4-Mercapto-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carbonyl]-phenethyl-amino}-acetic acid | 0.2 mmol, 124 mg | S[C@@H]1C[C@H](N(C1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)C(=O)N(CCC1=CC=CC=C1)CC(=O)O | C25H26N2O5S2
reactant | acetyl chloride | 0.4 mmol, 0.04 ml | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 3.2 ml | N1=CC=CC=C1 | C5H5N
product | (2S,4R)-{[4-Acetylsulfanyl-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carbonyl]-phenethyl-amino}-acetic acid | 30 mg, 28% | C(C)(=O)S[C@@H]1C[C@H](N(C1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)C(=O)N(CCC1=CC=CC=C1)CC(=O)O | C27H28N2O6S2
